US06906060B2
1-(3-Fluoro-4-methoxyphenyl)-4-(octahydropyrido[1,2-a]pyrazin-2-yl)butane-1,4-dione
12 mg of the title compound were prepared as described for 1-(3,4-dimethoxyphenyl)-4-((S)-hexahydropyrrolo[1,2-a]pyrazin-2-yl)butane-1,4-dione, using 1-(tert-butoxycarbonyl)piperidine 2 carboxylic acid instead of BOC-protected proline and 3-(4-methoxy-3-fluorobenzoyl)propanoic acid instead of 3-(3,4-dimethoxybenzoyl)propionic acid.

reactant | 1-(3,4-dimethoxyphenyl)-4-((S)-hexahydropyrrolo[1,2-a]pyrazin-2-yl)butane-1,4-dione | COC=1C=C(C=CC1OC)C(CCC(=O)N1C[C@H]2N(CC1)CCC2)=O | C19H26N2O4
reactant | 1-(tert-butoxycarbonyl)piperidine 2 carboxylic acid | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)O | C11H19NO4
reactant | 3-(4-methoxy-3-fluorobenzoyl)propanoic acid | COC1=C(C=C(C(=O)CCC(=O)O)C=C1)F | C11H11FO4
product | 1-(3-Fluoro-4-methoxyphenyl)-4-(octahydropyrido[1,2-a]pyrazin-2-yl)butane-1,4-dione | 12 mg | FC=1C=C(C=CC1OC)C(CCC(=O)N1CC2N(CC1)CCCC2)=O | C19H25FN2O3
